US08304419B2
To a solution of N-({3-[(3-bromo-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide (70.0 mg, 0.145 mmol), Palladium dichlorobistriphenylphosphine(II) (7.55 mg, 0.014 mmol), copper(I)iodide (1.377 mg, 7.23 μmol) and TEA (0.101 ml, 0.723 mmol) in THF (4 ml) was bubbled 1-propyne (11.59 mg, 0.289 mmol) for 5 minutes and the reaction mixture was irradiated in a personal microwave reactor for 10 minutes at 120° C. The solvent was removed and the crude material was purified via reverse phase HPLC to give 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(1-propyn-1-yl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide (29 mg, 0.065 mmol, 45% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.60-7.81 (m, 1H), 7.40 (s, 1H), 7.28-7.38 (m, 3H), 7.16 (s, 1H), 7.05 (s, 1H), 4.62 (s, 2H), 1.99 (s, 3H). LC-MS (ES+) m/z 443.13, [M+H].

reactant | N-({3-[(3-bromo-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide | 0.145 mmol, 70.0 mg | BrC=1C=C(C=C(C1)C#N)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1)Cl)F | C18H10BrCl2FN4O2
reactant | 1-propyne | 0.289 mmol, 11.59 mg | C#CC | C3H4
solvent | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | copper(I)iodide | 7.23 μmol, 1.377 mg | [Cu]I
product | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(1-propyn-1-yl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide | 0.065 mmol, 29 mg, 45% yield | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#CC)C#N)F | C21H13Cl2FN4O2
